US08748626B2
to a solution of (3R,4R)-benzyl 3-(((R)-1-(5-benzyl-2-(2,5-difluorophenyl)thiazol-4-yl)-2,2-dimethylpropylamino)methyl)-4-fluoropyrrolidine-1-carboxylate (130 mg, 0.214 mmol) in dichloromethane (2.1 mL, 0.1 M solution) at room temperature was added N,N-diisopropylethylamine (112 μL, 0.64 mmol). (S)-1-Chloro-1-oxopropan-2-yl acetate (54.2 μL, 0.428 mmol) was then added dropwise over 2 min. The resulting solution was stirred at room temperature for 2 h. The reaction mixture was quenched with saturated NaHCO3 solution and extracted with EtOAc. The organic layer was washed with water and brine, dried over anhydrous sodium sulfate and filtered. After the volatile organic materials were removed in vacuo, the crude product was purified on flash column chromatography to yield (3R,4R)-benzyl 3-(((S)-2-acetoxy-N-((R)-1-(5-benzyl-2-(2,5-difluorophenyl)thiazol-4-yl)-2,2-dimethylpropyl)propanamido)methyl)-4-fluoropyrrolidine-1-carboxylate (115 mg, 75%). NMR (CDCl3, 400 MHz): δ 7.85 (1H, m), 7.37-7.24 (7H, m), 7.21 (1H, m), 7.09 (2H, m), 7.05 (1H, m), 6.96 (1H, m), 6.1 (1H, m), 5.4 (2H, m), 5.28 (1H, m), 4.82 (2H, m), 4.19-3.97 (3H, m), 3.70-3.49 (2H, m), 3.13 (1H, m), 2.76 (1H, m), 2.52 (1H, m), 2.18 (3H, s), 1.61 (3H, m), 0.99 (9H, s). LC/MS (uplc): MH+ 722.3, 1.40 min.

reactant | (3R,4R)-benzyl 3-(((R)-1-(5-benzyl-2-(2,5-difluorophenyl)thiazol-4-yl)-2,2-dimethylpropylamino)methyl)-4-fluoropyrrolidine-1-carboxylate | 0.214 mmol, 130 mg | C(C1=CC=CC=C1)C1=C(N=C(S1)C1=C(C=CC(=C1)F)F)[C@@H](C(C)(C)C)NC[C@@H]1CN(C[C@@H]1F)C(=O)OCC1=CC=CC=C1 | C34H36F3N3O2S
reactant | N,N-diisopropylethylamine | 0.64 mmol, 112 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (S)-1-Chloro-1-oxopropan-2-yl acetate | 0.428 mmol, 54.2 μL | C(C)(=O)O[C@H](C(=O)Cl)C | C5H7ClO3
solvent | dichloromethane | 0.1 M, 2.1 mL | ClCCl | CH2Cl2
product | (3R,4R)-benzyl 3-(((S)-2-acetoxy-N-((R)-1-(5-benzyl-2-(2,5-difluorophenyl)thiazol-4-yl)-2,2-dimethylpropyl)propanamido)methyl)-4-fluoropyrrolidine-1-carboxylate | 115 mg, 75% | C(C)(=O)O[C@H](C(=O)N([C@H](C(C)(C)C)C=1N=C(SC1CC1=CC=CC=C1)C1=C(C=CC(=C1)F)F)C[C@@H]1CN(C[C@@H]1F)C(=O)OCC1=CC=CC=C1)C | C39H42F3N3O5S
